US04008230
To 0.430 g. (1.1 mmol.) of mercuric acetate in a mixture of 20 ml. of toluene and 10 ml. of propionic acid are added 0.632 g. (1 mmol.) of 3-hydroxy-4-bromo-2-[2-formylthio-4-oxo-3-(α-benzyloxycarbonylaminophenylacetamido)-1-azetidinyl]-2-butenoate, p-methoxybenzyl ester, in 20 ml. of toluene. The mixture is stirred for 30 minutes at 15° C., after which time the solution becomes cloudy. Hydrogen sulfide is bubbled into the mixture, and the mixture then is filtered through activated charcoal and a filter aide. The resulting filtrate is evaporated, and a residue comprising p-methoxybenzyl 7-(α-benzyloxycarbonylaminophenylacetamido)-3-hydroxy-3-cephem-4-carboxylate is obtained.

reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | 3-hydroxy-4-bromo-2-[2-formylthio-4-oxo-3-(α-benzyloxycarbonylaminophenylacetamido)-1-azetidinyl]-2-butenoate | 1 mmol | OC(=C(C(=O)[O-])N1C(C(C1=O)NC(C(NC(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)=O)SC=O)CBr
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | p-methoxybenzyl 7-(α-benzyloxycarbonylaminophenylacetamido)-3-hydroxy-3-cephem-4-carboxylate | C(C1=CC=CC=C1)OC(=O)NC(C(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)OC)C1=O)C1=CC=CC=C1 | C31H29N3O8S
